US07417032B2
1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(4-methoxy-cyclohexyloxy) -benzene
0.08 g 4-methoxycyclohexanol, 0.16 g triphenylphosphine and 0.12 ml diisopropyl azodicarboxylate are added to a solution of 0.25 g 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-hydroxy-benzene in 3 ml of tetrahydrofuran, in the order stated. The solution is stirred for 14 h at ambient temperature and then combined with aqueous potassium carbonate solution. Then it is extracted with ethyl acetate, dried over sodium sulphate and the solvent is removed. The residue is purified on silica gel (cyclohexane/ethyl acetate 7:3->1:1).

reactant | 4-methoxycyclohexanol | 0.08 g | COC1CCC(CC1)O | C7H14O2
reactant | triphenylphosphine | 0.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.12 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-hydroxy-benzene | 0.25 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)O | C20H23ClO11
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(4-methoxy-cyclohexyloxy) -benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)OC1CCC(CC1)OC | C27H35ClO12
